US09302991B2
<Step-1>:methyl 5-chloro-6-(2,2,2-trifluoroethoxy)nicotinate
A mixture of 5-chloro-6-(2,2,2-trifluoroethoxy)nicotinic acid (5.6 g, 21.9 mmol, Step-1 of Amine-5) and sulfuric acid (0.12 mL, 2.25 mmol) in methanol (40 mL) is refluxed with stirring for 2 days. After removal of the solvent, the residue is poured into 2M sodium hydroxide (100 mL) and extracted with ethyl acetate and dried over sodium sulfate and concentrated in vacuo to give 3.28 g (56% yield) of the title compound as a white solid.

reactant | 5-chloro-6-(2,2,2-trifluoroethoxy)nicotinic acid | 21.9 mmol, 5.6 g | ClC=1C(=NC=C(C(=O)O)C1)OCC(F)(F)F | C8H5ClF3NO3
reactant | sulfuric acid | 2.25 mmol, 0.12 mL | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 40 mL | CO | CH4O
product | methyl 5-chloro-6-(2,2,2-trifluoroethoxy)nicotinate | 3.28 g, 56% yield | ClC=1C(=NC=C(C(=O)OC)C1)OCC(F)(F)F | C9H7ClF3NO3
